US05610144
By proceeding in a fashion similar to that described in Example 2, but starting from 6.2 g of tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate in solution in 150 cm3 of anhydrous tetrahydrofuran and 4.2 g of methyl 3-isocyanatophenylacetate, 6 g of methyl (2RS,5SR)-3-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}phenylacetate are obtained [proton NMR (200 MHz, DMSO D6, δ in ppm), 2 rotamers at room temperature, peak coalescence at 120° C.: 1.5 (s, 9H, (CH3)3); 3.6 (s, 2H, CH2CO); 3.65 (s, 3H, OCH3); 6.8 to 7.7 (m, 9H, aromatic). Infrared spectrum (KBr), characteristic bands in cm-1 : 3365, 3155, 3110, 3090, 3060, 3030, 2975, 2950, 2930, 2875, 1738, 1700, 1650, 1610, 1595, 1560, 1495, 1435, 1395, 1365, 1315, 1250, 1220, 1155, 1015, 905, 890, 860, 845, 780, 760, 700].

reactant | tert-butyl (2RS,5SR)-1-(2-aminoacetyl)-5-phenylprolinate | 6.2 g | NCC(=O)N1C(C(=O)OC(C)(C)C)CCC1C1=CC=CC=C1 | C17H24N2O3
reactant | KBr | [K+].[Br-]
reactant | methyl 3-isocyanatophenylacetate | 4.2 g | N(=C=O)C=1C=C(C=CC1)CC(=O)OC | C10H9NO3
solvent | tetrahydrofuran | 150 cm3 | O1CCCC1 | C4H8O
product | methyl (2RS,5SR)-3-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}phenylacetate | 6 g | C(C)(C)(C)OC(=O)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)CC(=O)OC)=O)=O | C27H33N3O6
